US04279918
2-(α-ethoxycarbonyl-4-nitrobenzylidene)-1-methylpyrrolidine
Boil 50 g of 4-nitrophenylacetic acid ethyl ester and 41.4 g of 2,2-diethoxy-1-methylpyrrolidine under reflux for 3 hours in 250 ml of benzene. Distil off the benzene before recrystallizing the resulting residue from diethyl ether/petroleum ether to obtain the title compound at a yield of 52.6 g (77% of theory) in the form of red crystals of m.p. 82° to 83°.

reactant | 4-nitrophenylacetic acid ethyl ester | 50 g | C(C)OC(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H11NO4
reactant | 2,2-diethoxy-1-methylpyrrolidine | 41.4 g | C(C)OC1(N(CCC1)C)OCC | C9H19NO2
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 2-(α-ethoxycarbonyl-4-nitrobenzylidene)-1-methylpyrrolidine | C(C)OC(=O)C(C1=CC=C(C=C1)[N+](=O)[O-])=C1N(CCC1)C | C15H18N2O4
